US08044068B2
A solution of 2,4-dichloro-6-methoxyquinazoline (0.33 g) in methanol (5 mL) was added sodium methoxide (0.086 g), and the mixture was stirred at room temperature for 6 h. Water was added to the reaction mixture, and the aqueous layer was extracted with chloroform. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol=50:1) to obtain 2-chloro-4,6-dimethoxyquinazoline (0.20 g).

reactant | 2,4-dichloro-6-methoxyquinazoline | 0.33 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | sodium methoxide | 0.086 g | C[O-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-chloro-4,6-dimethoxyquinazoline | 0.20 g | ClC1=NC2=CC=C(C=C2C(=N1)OC)OC | C10H9ClN2O2
